US07759337B2
In a microwave tube was placed 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (0.097 g, 0.29 mmol), 2,4-bis(trifluoromethyl)benzeneboronic acid (0.074 g, 0.29 mmol), tetrakis(triphenylphosphine)palladium (0) (0.033 g, 0.029 mmol) and 2M potassium carbonate (0.43 mL, 0.86 mmol) in 1.5 mL of DME/EtOH (4/1). The mixture was heated in the microwave at 120° C. for 20 minutes. After cooling, water was added and the mixture was extracted with DCM. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The crude product was purified by HPLC to give 3-(1-(2,4-bis(trifluoromethyl)phenyl)phthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide as an off-white solid. MS (ES+)=516.2 (M+H).

reactant | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 0.29 mmol, 0.097 g | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
reactant | 2,4-bis(trifluoromethyl)benzeneboronic acid | 0.29 mmol, 0.074 g | FC(C1=C(C=CC(=C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
reactant | potassium carbonate | 0.86 mmol, 2M, 0.43 mL | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DME EtOH | 1.5 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium | 0.029 mmol, 0.033 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-(2,4-bis(trifluoromethyl)phenyl)phthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | FC(C1=C(C=CC(=C1)C(F)(F)F)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C)(F)F | C27H19F6N3O
